US08865736B2
9-[3-(Aminocarbonyl)phenoxy]nonyl 4-methylbenzenesulfonate
Toluenesulfonyl chloride (410 mg, 2.15 mmol, 1.5 equiv.) and triethylamine (0.40 ml, 2.88 mmol, 2 equiv.) were added to a solution of 3-[(9-hydroxynonyl)oxy]benzenecarboxamide (400 mg, 1.43 mmol, 1 equiv.) in CH2Cl2 (4 ml) and the reaction mixture was stirred at r.t. for 6 days. Saturated NaHCO3 solution (40 ml) was added and the mixture was extracted with CH2Cl2 (3×30 ml). The combined organic extracts were dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was purified by column chromatography on silica eluting with CH3OH/CH2Cl2 (2%), to give the desired compound as white solid (428 mg, 69%), mp 78-80° C. HPLC-MS (method 1): m/z 434 [M+H]+, Rt=4.90 min.

reactant | Toluenesulfonyl chloride | 2.15 mmol, 410 mg, 1.5 equiv. | C=1(C(=CC=CC1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | triethylamine | 2.88 mmol, 0.40 ml, 2 equiv. | C(C)N(CC)CC | C6H15N
reactant | 3-[(9-hydroxynonyl)oxy]benzenecarboxamide | 1.43 mmol, 400 mg, 1 equiv. | OCCCCCCCCCOC=1C=C(C=CC1)C(=O)N | C16H25NO3
reactant | NaHCO3 | 40 ml | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 4 ml | C(Cl)Cl | CH2Cl2
product | 9-[3-(Aminocarbonyl)phenoxy]nonyl 4-methylbenzenesulfonate | 428 mg, 69% | CC1=CC=C(C=C1)S(=O)(=O)OCCCCCCCCCOC1=CC(=CC=C1)C(=O)N | C23H31NO5S
